US05932571
Combine (S)-4-benzyl-3-(2-(4-fluorophenyl)pent-4-enoyl)-2-oxazolidinone (9.66 g, 27.34 mol), tetrahydrofuran (160 mL), and water (40 mL). Cool in an ice bath. Add lithium hydroxide hydrate (2.52 g, 60 mmol) and an aqueous solution of hydrogen peroxide (10 mL, 30% 116 mmol). After 3 hours, dilute the reaction mixture with an aqueous 1 M sodium hydroxide solution and extract twice with diethyl ether. Cool the aqueous layer in an ice bath, acidify with an aqueous concentrated hydrochloric acid solution (about 15 mL), and extract twice with dichloromethane. Extract the combined organic layers with a saturated aqueous sodium thiosulfate solution, dry over MgSO4, filter, and evaporate in vacuo to give (S)-2-(4-fluorophenyl)pent-4-enoic acid.

reactant | (S)-4-benzyl-3-(2-(4-fluorophenyl)pent-4-enoyl)-2-oxazolidinone | 27.34 mol, 9.66 g | C(C1=CC=CC=C1)[C@@H]1N(C(OC1)=O)C(C(CC=C)C1=CC=C(C=C1)F)=O | C21H20FNO3
reactant | tetrahydrofuran | 160 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide hydrate | 60 mmol, 2.52 g | O.[OH-].[Li+]
reactant | hydrogen peroxide | 116 mmol, 10 mL | OO | H2O2
solvent | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | water | 40 mL | O | H2O
product | (S)-2-(4-fluorophenyl)pent-4-enoic acid | FC1=CC=C(C=C1)[C@@H](C(=O)O)CC=C | C11H11FO2
